US09079911B2
2-(4,6-Dimethylpyrimidin-2-yl)-5-{[3-fluoro-2-(2H-1,2,3-triazol-2-yl)phenyl]carbonyl}octahydropyrrolo[3,4-c]pyrrole
A mixture of 2-(4,6-dimethyl-pyrimidin-2-yl)-octahydro-pyrrolo[3,4-c]pyrrole (437.3 mg, 2.0 mmol), 3-fluoro-2-[1,2,3]triazol-2-yl-benzoic acid (415 mg, 2.0 mmol), HATU (1.14 g, 3.0 mmol) and DIPEA (777 mg, 6.0 mmol) was stirred into DMF (20 mL) at room temperature for 30 minutes. The reaction mixture was diluted with ethyl acetate (250 mL) and washed with water (2×500 mL). The organic phase was dried (Na2SO4), filtered and concentrated to dryness. The crude product was purified using Agilent HPLC (basic system) to yield pure title compound (458.0 mg, 56%). MS (ESI) mass calcd. for C21H22FN7O, 407.45; m/z found 408.2 [M+H]+. 1H NMR (CDCl3): 7.79 (s, 2H), 7.52-7.45 (m, 1H), 7.36-7.28 (m, 1H), 7.25-7.22 (m, 1H), 6.30 (s, 1H), 3.82 (dd, J=11.6, 7.5, 1H), 3.75-3.66 (m, 2H), 3.58-3.41 (m, 4H), 3.13 (dd, J=10.9, 5.2, 1H), 3.02-2.87 (m, 2H), 2.36-2.24 (m, 6H).

reactant | 2-(4,6-dimethyl-pyrimidin-2-yl)-octahydro-pyrrolo[3,4-c]pyrrole | 2.0 mmol, 437.3 mg | CC1=NC(=NC(=C1)C)N1CC2CNCC2C1 | C12H18N4
reactant | 3-fluoro-2-[1,2,3]triazol-2-yl-benzoic acid | 2.0 mmol, 415 mg | FC=1C(=C(C(=O)O)C=CC1)N1N=CC=N1 | C9H6FN3O2
reactant | HATU | 3.0 mmol, 1.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 6.0 mmol, 777 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(4,6-Dimethylpyrimidin-2-yl)-5-{[3-fluoro-2-(2H-1,2,3-triazol-2-yl)phenyl]carbonyl}octahydropyrrolo[3,4-c]pyrrole | 458.0 mg, 56% | CC1=NC(=NC(=C1)C)N1CC2CN(CC2C1)C(=O)C1=C(C(=CC=C1)F)N1N=CC=N1 | C21H22FN7O
